2188-09-11 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -GI saw the patient and would not prefer to prep overnight, given
   recurrent episodes of BRB, if she settles out, can prep tonight vs.
   sending her for a tagged RBC scan
   -HCT stable and above baseline overnight
   -Lactate repeated after small fluids bolus, 1.9 from 3.9
   -PTT repeated, and returned to [**Location 848**]
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2188-9-10**] 09:43 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-11**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.8
C (96.5
   HR: 87 (76 - 87) bpm
   BP: 121/53(69) {99/40(54) - 133/83(93)} mmHg
   RR: 28 (15 - 31) insp/min
   SpO2: 94%
   Wgt (current): 58.5 kg (admission): 63.9 kg
   Height: 68 Inch
             Total In:
                                                                    170 mL
                                                                     67 mL
   PO:
             TF:
   IVF:
                                                                    110 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    170 mL
                                                                     67 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 94%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   339 K/uL
   10.8 g/dL
   94 mg/dL
   4.1 mg/dL
   30 mEq/L
   5.0 mEq/L
   72 mg/dL
   96 mEq/L
   141 mEq/L
   33.4 %
   12.7 K/uL
        [image002.jpg]
                             [**2188-9-10**]  02:32 PM
                             [**2188-9-10**]  08:12 PM
                             [**2188-9-11**]  02:13 AM
   WBC
   12.7
   Hct
   31.6
   33.3
   33.4
   Plt
   339
   Cr
   4.1
   TropT
   0.58
   Glucose
   94
   Other labs: PT / PTT / INR:13.3/32.3/1.1, CK / CKMB /
   Troponin-T:28//0.58, Lactic Acid:1.9 mmol/L, Ca++:10.7 mg/dL, Mg++:3.1
   mg/dL, PO4:7.7 mg/dL
   Imaging: CXR: Left basal effusion with atelectasis in the left lower
   lobe, though focal
   consolidation cannot be excluded and followup is advised.
   Microbiology: Blood 8/6: NGTD
   Sputum [**9-10**]: NGTD
   Assessment and Plan
   1)LGIB: Patient presents with approximately 400cc of BRBPR at HD. Per
   her PMH, she has a history of GI bleeding but no additional information
   is know at this time. Differential for LGIB includes hemmoroids,
   diverticuliosis, angiodysplasia, colitis (infectious, ischemia, IBD,
   and neoplasm. No report of fevers, chills, or diarrhea to suggest an
   infectious colitis or IBD. Also, IBD would be unusual to present for
   the first time in a 71yo woman. She has no prior history of CAD to
   suggest ischemic colitis. Most likely diverticulitis vs. hemorrhoids.
   Per OMR, she has not had a colonoscopy here. Her baseline Hct is
   between 25-30 but her Hct on admission today of 35.5. Her INR and PTT
   are elevated today.  She is on Aspirin as an outpatient but is not on
   any anti-coagulation (in light of history of atrial fibrillation).
   - Hct [**Hospital1 **]
   - 2 PIVs in place
   - GI consult; consider colonoscopy
   - Hold ASA
   - Active type and screen
   - Transfuse if Hct<25
   - If PTT remains significantly elevated, consider Protamine
   2)Hypotension:  Patient was noted to be hypotensive with SBPs in 80
   possibly lower at dialysis. Unclear how much fluid was removed at
   dialysis. She also had 400cc of BRBPR which may be accounting for her
   transient hypotension.  She received 1L NS in the ED and her BP quickly
   stabilized and remains at baseline. No fevers or chills to suggest an
   underlying infectious process.  Lactate was elevated to 3.9 but this
   was in the setting of renal failure.
   - Monitor on telemetry
   - f/u blood cultures
   - Repeat lactate
   3)Respiratory: Patient has history of respiratory failure s/p
   tracheostomy and was successfully weaned in [**1-11**]. Patient was acutely
   hypoxic with O2 saturation between 50-70%. She was also noted to have
   increased secretions; she likely mucous plugged given acute
   desaturation. Her Upon transfer to the MICU, her respiratory status
   stabilized.  She is currently on 50% trachmask.  No evidence of a
   pneumonia on cxray.
   - Check ABG
   - Sputum cx
   - Continue albuterol and atrovent nebs
   4)Coagulopathy: Patient presents with elevated INR and PTT. She is not
   on any anti-coagulation or blood thinners as outpatient. These labs may
   have been draw via a line that was flushed with heparin. This may also
   be due to heparin SQ she has been receiving at home.
   - Repeat coags
   5)ESRD on HD: Patient underwent dialysis today but prematurely stopped
   in the setting of BRBPR. Her BP during this time dropped and remained
   below baseline upon transfer to the ED.
   - Consult renal to let her know that she is here
   - Follow daily electrolytes
   6)COPD:  Continue Atrovent and Albuterol
   7)Anemia: Baseline Hct between 25-30. Hct on admission was 35, which is
   slightly elevated from baseline.  She receives Epogen at HD.
   - Hct [**Hospital1 **]
   - Trend daily Hct
   8)Hypothyroidism: Continue outpatient Levoxyl.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2188-9-10**] 02:15 PM
   18 Gauge - [**2188-9-10**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2188-09-12 06:27:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   BRBPR
   24 Hour Events:
   - Oxygen saturation acutely dropped to low 60s; suctioned with little
   improvement; immediately bagged with rapid improvement of oxygen
   saturations to mid-high 90s
   - Received Benadryl x 1
   - GI reccs: No indication for colonoscopy at this time; if has further
   BRBPR, would recommend RBC tagged scan vs. angiogram
   - Patient had 20cc of maroon colored stool this morning
   - Plan for dialysis this morning
   - Being screened to go back to rehab today
   - Labs hemolyzed this morning; will be redrawn at dialysis
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2188-9-11**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2188-9-11**] 09:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-12**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.4
   HR: 74 (71 - 85) bpm
   BP: 110/43(58) {98/38(55) - 122/77(83)} mmHg
   RR: 17 (15 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 58.5 kg (admission): 63.9 kg
   Height: 68 Inch
             Total In:
                                                                    480 mL
                                                                    154 mL
   PO:
             TF:
   IVF:
                                                                    240 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    480 mL
                                                                    154 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: 7.29/58/109/20/0
   PaO2 / FiO2: 218
   Physical Examination
   Gen: Awake, does not appear in respiratory distress
   HEENT: Tracheostomy in place
   Heart: RRR, no m,r,g
   Lungs: CTAB
   Abdomen: Soft, NT/ND, +BS; PEG tube in place
   Extremities: Auto-amputating toes
   Labs / Radiology
   278 K/uL
   10.4 g/dL
   73 mg/dL
   5.4 mg/dL
   20 mEq/L
   6.4 mEq/L
   90 mg/dL
   95 mEq/L
   139 mEq/L
   30.8 %
   11.3 K/uL
        [image002.jpg]
                             [**2188-9-10**]  02:32 PM
                             [**2188-9-10**]  08:12 PM
                             [**2188-9-11**]  02:13 AM
                             [**2188-9-11**]  01:45 PM
                             [**2188-9-12**]  03:45 AM
   WBC
   12.7
   11.3
   Hct
   31.6
   33.3
   33.4
   30.8
   Plt
   339
   278
   Cr
   4.1
   5.4
   TropT
   0.58
   TCO2
   29
   Glucose
   94
   73
   Other labs: PT / PTT / INR:13.3/32.3/1.1, CK / CKMB /
   Troponin-T:28//0.58, Differential-Neuts:72.1 %, Band:0.0 %, Lymph:17.2
   %, Mono:4.3 %, Eos:6.1 %, Lactic Acid:1.9 mmol/L, Ca++:11.3 mg/dL,
   Mg++:3.1 mg/dL, PO4:9.5 mg/dL
   Imaging: None
   Microbiology: [**9-10**]: Sputum culture:
   GRAM STAIN >25 PMNs and <10 epithelial cells/100X field.
    4+ GRAM NEGATIVE ROD(S).
    3+ GRAM POSITIVE ROD(S).
    1+ GRAM POSITIVE COCCI.
     IN PAIRS.
   Assessment and Plan
   Ms. [**Known lastname 3981**] is a 71F with a PMH s/f ESRD on HD, remote hx of GIB who
   presents with BRBPR, and transient hypotension/hypoxia after dialysis.
   1) Hypoxia: Likely secondary to mucous plugging, as the patient had
   improved with deep suctioning.  Sputum culture growing gram negative
   rods, likely a colonizer in a chronically vented patient.  Oxygen
   dropped yesterday as well likely [**3-8**] mucous plugging; improved quickly
   once she was bagged.
   - Continue albuterol and atrovent nebs
   -Wean trach mask as tolerated
   2)LGIB: Patient presents with approximately 400cc of BRBPR at HD.  She
   had maroon colored stools this morning, small in quantity. GI does not
   feel that she needs a colonoscopy at this time and if she started
   acutely bleeding, angiogram or RBC tagged scan would be appropriate.
   -Holding home dose ASA
   -Has two peripheral IVs for access, with an active type and screen
   3)ESRD on HD:  Patient scheduled for dialysis today.
   4)COPD:  Continue Atrovent and Albuterol
   5)Anemia: Continue outpatient Epogen.
   6) Hypothyroidism: Continue outpatient Levoxyl.
   ICU Care
   Nutrition: Restart tube feeds today
   Glycemic Control:  Blood sugars well controlled
   Lines:
   Tunneled (Hickman) Line - [**2188-9-10**] 02:15 PM
   18 Gauge - [**2188-9-10**] 02:30 PM
   Prophylaxis:
   DVT: Heparin SQ [**Hospital1 **]
   Stress ulcer:  No PPI necessary
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: Discharge to rehab